US08629143B2
4-(trifluoromethyl)phthalazin-1(2H)-one
A solution of 2-(2,2,2-trifluoroacetyl)benzoic acid (0.554 g, 2.54 mmol) and hydrazine hydrate (0.44 mL, 7.8 mmol) in EtOH (7.5 mL) was stirred at 80° C. overnight, concentrated, azeotroped with toluene, and dried in vacuo to give the crude title compound as a tan solid, which was used without purification). 1H NMR (300 MHz, DMSO-d6) δ 8.36 (dd, 1H), 7.91-8.10 (m, 3H).

reactant | 2-(2,2,2-trifluoroacetyl)benzoic acid | 2.54 mmol, 0.554 g | FC(C(=O)C1=C(C(=O)O)C=CC=C1)(F)F | C9H5F3O3
reactant | hydrazine hydrate | 7.8 mmol, 0.44 mL | O.NN
solvent | EtOH | 7.5 mL | CCO | C2H6O
product | 4-(trifluoromethyl)phthalazin-1(2H)-one | FC(C1=NNC(C2=CC=CC=C12)=O)(F)F | C9H5F3N2O
